Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
Endoscopy

 
History of Present Illness:
HPI: This is a ___ gentleman with a pmhx. significant 
for 3V CAD s/p DES to diag, DES to mid-circ on ___ on ASA 
and plavix, hypercholesterolemia who presents to ED from PCPs 
office with 12 point hct drop in 3 days. Mr. ___ was 
recently admitted to ___ earlier this year with exertional 
chest pain. An ETT demonstrated non-specific ST segment changes 
in recovery without anginal symptoms; ST segments changes were 
new since last stress on ___. Patient was offered cardiac 
cath, but opted for medical managment with addition of 
metoprolol to his cardiac regimen. He apparently had one dark, 
tarry stool during admission, but hct was relatively stable and 
he was told to follow-up with outpatient provider for further 
___.  
.  
Mr. ___ states that over the last few days he is again 
experiencing chest pressure and shortness of breath on exertion. 
He has continued to have dark tarry stools: about once each day. 
He denies any hematemesis, nausea, vomiting, diarrhea, or BRBPR. 
Mr. ___ has not been able to tolerate the metoprolol 25mg 
bid that was prescribed last admission as it makes him 
hypotensive and dizzy. He has been cutting the tabs in half, 
taking 12.5mg bid.  
.  
In the ED, Mr. ___ was 97.0 74 101/61 16 100%. Mr. ___ 
hct was 22.4, down from 34.7 3 days ago and down from 42.4 in 
___ after stents were placed. Patient was given protonix 
bolus/drip and 2 large-bore PIVs were placed. He received 2 
units of blood and IVF. GI was consulted who recommended EGD in 
AM. EKG was unchanged from prior and first trop was negative. 
Vitals upon transfer to floor were: 97.7, 84, 104/55, 17, 100% 
on 2L.  

 
Past Medical History:
--CAD with 3VD s/p DES to diag, DES to mid-circ ___  
--OSA, non-compliant with CPAP  
--Hyperlipidemia  
--Syncope with negative ___, attributed to vertigo  
--Deviated septum  
--Rhinitis  
--Hypotestosteronemia / erectile dysfunction  
--Right retinal detachment s/p laser repair  
--Nephrolithiasis  
--HSV type 1  
--Osteoarthritis  

 
Social History:
___
Family History:
Father: DM2, HD, died at age of ___ ___ DM related complications
Mother: Died at ___ from ARF.  Developed sx of CHF in her last 
years.
 
Physical Exam:
VS: 97.8, 108/65, 89, 18, 100% on RA  
GENERAL: Alert, pleasant, NAD, with wife and 2 sons  
___ membranes slightly dry  
NECK: No LAD  
CHEST: Crackles in LLB, otherwise CTA bilaterally  
ABDOMEN: +BS, soft, non-tender, non-distended  
STOOL: Guiac positive as per ED resident  
EXT: Warm, well-perfused, no edema bilaterally  
 
Pertinent Results:
EGD ___ (Final report will be added as an addendum): ulcers 
in stomach and diffuse gastritis. irregularity biopsied
.
___ 03:20PM BLOOD WBC-6.5 RBC-2.49*# Hgb-7.7*# Hct-22.4*# 
MCV-90 MCH-31.1 MCHC-34.5 RDW-14.4 Plt ___
___ 11:10PM BLOOD Hct-22.1*
___ 03:40AM BLOOD Hct-25.0*
___ 04:45AM BLOOD WBC-6.4 RBC-3.04* Hgb-9.6* Hct-26.6* 
MCV-88 MCH-31.6 MCHC-36.0* RDW-15.0 Plt ___
___ 11:20AM BLOOD Hct-28.6*
___ 04:35AM BLOOD WBC-6.5 RBC-3.54* Hgb-11.1* Hct-31.8* 
MCV-90 MCH-31.4 MCHC-35.0 RDW-15.4 Plt ___
___ 03:20PM BLOOD cTropnT-<0.01
___ 11:25PM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:20AM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:25PM BLOOD CK(CPK)-41*
___ 11:20AM BLOOD CK(CPK)-59
___ 04:35AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.1
___ 03:20PM BLOOD calTIBC-286 Ferritn-51 TRF-220
___ 04:45AM BLOOD ___ PTT-31.3 ___
___ 04:35AM BLOOD Glucose-88 UreaN-15 Creat-0.9 Na-141 
K-4.1 Cl-110* HCO3-27 AnGap-8
___ 04:45AM BLOOD PSA-1.4
___ 04:45AM BLOOD VITAMIN D ___ DIHYDROXY-PND
.
___ CXR
The lungs are well expanded and clear. The cardiomediastinal 
silhouette,
hilar contours and pleural surfaces are normal. No pleural 
effusions or
pneumothoraces are present.
 
IMPRESSION:
No acute intrathoracic process.

 
Brief Hospital Course:
ASSESSMENT/PLAN: This is a ___ gentleman with a pmhx. of 
CAD and hyperlipidemia who is admitted from ___'s office with 
symptomatic 12-point hct drop in setting of ASA/Plavix.  

Upper bleed: He presented with chest pain after multiple 
episodes of melena.  The pt HCT was 22 on arrival down from 34.  
He was started on an IV PPI and transfused 5 units of blood and 
HCT was 31.8 on discharge.  He had an EGD showed no active 
bleeding. There were gastric ulcers and diffuse erosions.  A 
biopsy was done of an irregularity and is pending.  He was 
discharged on omeprazole 40mg BID. 

H pylori: His h pylori antibody was positive. GI recommended tx 
for h pylori although biopsies are still pending.  He was 
discharged on amoxicillin, clarithromycin, and omeprazole x 14 
days.

Chest pain: He ruled out for MI. His chest pain was likely 
demand ischemia in the setting of a low HCT. His ASA was 
decreased to 81mg daily.  He was continued on plavix due to his 
recent stent placement and continued on his statin. We intended 
to discharge him on his home dose of metoprolol but he was 
concerned that the metoprolol was making him dizzy. This is 
likely because he was having a GI bleed at the time.  He only 
felt comfortable being discharged on metoprolol 12.5mg BID. This 
will likely need to be increased to 25mg BID at his follow up 
PCP ___.

 
Medications on Admission:
--ASA 325 QD  
--Plavix 75 QD  
--Metoprolol 25mg BID (was only taking half a tab a day)  
--Simvastatin 40mg QD
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
3. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*1*
5. amoxicillin 500 mg Capsule Sig: Two (2) Capsule PO twice a 
day for 14 days.
Disp:*56 Capsule(s)* Refills:*0*
6. clarithromycin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
7. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO twice a 
day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
-Upper GI bleed with duodenal and stomach ulcers
.
Secondary diagnosis:
-CAD with 3VD s/p DES to diag, DES to mid-circ ___  
-OSA, non-compliant with CPAP  
-Hyperlipidemia  
-Syncope with negative ___, attributed to vertigo  
-Hypotestosteronemia / erectile dysfunction  
-Right retinal detachment s/p laser repair  
-Nephrolithiasis  

 
Discharge Condition:
Ambulates independently
Alert and oriented x3

 
Discharge Instructions:
You were admitted with black stools and chest discomfort. Your 
cardiac enzymes were checked and you did not have a heart 
attack.  You had an endoscopy which showed multiple ulcers in 
your stomach and your duodenum but they were no longer bleeding. 
You need to take a medication called a proton pump inhibitor 
(omeprazole). You will need a repeat endoscopy in ___ weeks to 
see that the ulcers resolved. Biopsies of for h. pylori were 
performed and the results are pending. We discussed with GI and 
will treat you based on your + blood work for h pylori.  We are 
starting you on 2 antibiotics (if you develop diarrhea from 
these please contact Dr. ___. You may experience stomach 
upset). Please return to the emergency department if you see new 
blood in your stool or black stool.  Aspirin and plavix does put 
you at risk for having additional bleeds but it is extremely 
important that you continue taking these medications for your 
heart. Never stop your aspirin or plavix prior to speaking with 
your cardiologist. 

The following medications were started:
-Omeprazole 40mg twice a day for 2 months and then daily
-Amoxicillin 500mg 2 tabs twice a day for 14 days
-Clarithromycin 500mhg twice a day for 14 days
-Aspirin 81mg daily
-Metoprolol tartrate 12.5mg twice a day (may be increased at 
follow up appointment with Dr. ___

The following medications were stopped:
-Aspirin 325mg by mouth daily
-metoprolol 25mg twice a day (decrease dose as above)

The following medications were continued at their previous dose:
-Plavix 75mg daily
-Simvastatin 40mg daily

No other changes were made to your home medications
 
Followup Instructions:
___